US07244861B2
29 mg of 3-(7-[(t-butoxycarbonyl)amino]methylbenzo[b]furan-5-yl)-2-isopropoxypropionic acid ethyl ester was dissolved in ethanol, and 30 mg of 10% palladium carbon was added, followed by stirring for 3 days at room temperature in hydrogen atmosphere. The reaction mixture was filtered through Celite, and the filtrate was concentrated, to give 27 mg of 3-(7-[(t-butoxycarbonyl)amino]methyl-2,3-dihydrobenzo[b]furan-5-yl)-2-isopropoxypropionic acid ethyl ester was obtained.

reactant | 3-(7-[(t-butoxycarbonyl)amino]methylbenzo[b]furan-5-yl)-2-isopropoxypropionic acid ethyl ester | 29 mg | C(C)OC(C(CC1=CC2=C(OC=C2)C(=C1)CNC(=O)OC(C)(C)C)OC(C)C)=O | C22H31NO6
solvent | ethanol | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | palladium carbon | 30 mg | [C].[Pd]
product | 3-(7-[(t-butoxycarbonyl)amino]methyl-2,3-dihydrobenzo[b]furan-5-yl)-2-isopropoxypropionic acid ethyl ester | 27 mg | C(C)OC(C(CC1=CC2=C(OCC2)C(=C1)CNC(=O)OC(C)(C)C)OC(C)C)=O | C22H33NO6
